US09210927B2
Preparation of (E)-tert-Butyl 5-(3-(3,5-dichloro-4-fluorophenyl)-4,4,4-trifluorobut-1-en-1-yl)-1H-indole-1-carboxylate (BI19)
To a stirred solution of tert-butyl 5-vinyl-1H-indole-1-carboxylate (0.65 g, 2.67 mmol), in 1,2-dichlorobenzene (10.0 mL) was added 5-(1-bromo-2,2,2-trifluoroethyl)-1,3-dichloro-2-fluorobenzene (1.74 g, 5.37 mmol), CuCl (53 mg, 0.537 mmol) and 2,2-bipyridyl (167 mg, 1.07 mmol). The resultant reaction mixture was degassed with argon for 30 min and heated to 150° C. for 2 h. The reaction mixture was cooled to ambient temperature and filtered, and the filtrate concentrated under reduced pressure. The crude compound was purified by column chromatography (SiO2, 100-200 mesh; 2% ethyl acetate/petroleum ether) to afford the title compound as a light brown gummy material (0.25 g, 10%): 1H NMR (400 MHz, CDCl3) δ 8.20 (d, J=8.0 Hz, 1H), 7.60 (m, 2H), 7.39 (m, 3H), 6.69 (d, J=16.0 Hz, 1H), 6.55 (d, J=10.5 Hz, 1H), 6.36 (dd, J=16.0, 8.0 Hz, 1H), 4.10 (m, 1H), 1.65 (s, 9H); ESIMS m/z 485.91 ([M−H]−); IR (thin film) 1165, 854 cm−1.

reactant | tert-butyl 5-vinyl-1H-indole-1-carboxylate | 2.67 mmol, 0.65 g | C(=C)C=1C=C2C=CN(C2=CC1)C(=O)OC(C)(C)C | C15H17NO2
reactant | 5-(1-bromo-2,2,2-trifluoroethyl)-1,3-dichloro-2-fluorobenzene | 5.37 mmol, 1.74 g | BrC(C(F)(F)F)C=1C=C(C(=C(C1)Cl)F)Cl | C8H3BrCl2F4
reactant | 2,2-bipyridyl | 1.07 mmol, 167 mg | N1=C(C=CC=C1)C1=NC=CC=C1 | C10H8N2
solvent | 1,2-dichlorobenzene | 10.0 mL | ClC1=C(C=CC=C1)Cl | C6H4Cl2
catalyst | CuCl | 0.537 mmol, 53 mg | Cl[Cu]
product | (E)-tert-Butyl 5-(3-(3,5-dichloro-4-fluorophenyl)-4,4,4-trifluorobut-1-en-1-yl)-1H-indole-1-carboxylate | ClC=1C=C(C=C(C1F)Cl)C(/C=C/C=1C=C2C=CN(C2=CC1)C(=O)OC(C)(C)C)C(F)(F)F | C23H19Cl2F4NO2
